US06048900
A mixture of N-(4-cyclohexyl-phenyl)-2-bromoacetamide (50 mg, 0.17 mmol), 4-(2-keto-1-benzimidazolinyl)-piperidine (41 mg, 0.18 mmol), and potassium carbonate (34 mg, 0.25 mmol) in dimethylsulfoxide (2 mL) was stirred at room temperature for 2 hours. The mixture was diluted with water and extracted with ethyl acetate (3×10 mL). The combined organic layer was washed with saturated aqueous sodium chloride solution, dried over MgSO4, and concentrated to give a yellow oil. The crude oil was purified on reverse phase silica gel column using 100% acetonitrile to give N-(4-cyclohexyl-phenyl)-2-[4-(2-oxo-2,3-dihydrobenzoimidazol-1-yl)-piperidin-1-yl]-acetamide as a yellow solid (21 mg, 30%): mp 130-132° C. 1H NMR (300 MHz, CDCl3) d 9.28 (s, 1 H), 9.05 (s, 1 H), 7.53 (d, 2 H), 7.22 (d, 2 H), 7.11 (m, 4 H), 4.33 (m, 1 H), 3.22 (s, 2 H), 3.12 (d, 2 H), 2.40-2.60 (m, 5 H), 1.70-1.90 (m, 7 H), 1.20-1.60 (m, 5 H). MS m/z 433 (M+H+).

reactant | N-(4-cyclohexyl-phenyl)-2-bromoacetamide | 0.17 mmol, 50 mg | C1(CCCCC1)C1=CC=C(C=C1)NC(CBr)=O | C14H18BrNO
reactant | 4-(2-keto-1-benzimidazolinyl)-piperidine | 0.18 mmol, 41 mg | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | potassium carbonate | 0.25 mmol, 34 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(4-cyclohexyl-phenyl)-2-[4-(2-oxo-2,3-dihydrobenzoimidazol-1-yl)-piperidin-1-yl]-acetamide | 21 mg, 30% | C1(CCCCC1)C1=CC=C(C=C1)NC(CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)=O | C26H32N4O2
